US04116956
To a suspension of 8.1 parts of 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine in 180 parts by volume of methanol are added 3.6 parts of 2-methylimidazole hydrochloride and 2.25 parts by volume of 80% hydrazine hydrate. The suspension is stirred at room temperature for 1.5 hours, and then 25 parts of ethyl orthoformate is added. To the mixture is added dropwise with stirring 60 parts by volume of ethanol containing 10% hydrogen chloride. After stirring for a further 1 hour, the mixture is warmed for a while so as to complete the reaction. After evaporation of the solvent, an aqueous solution of sodium bicarbonate is added to the residue to neutralize it. The mixture is then extracted with methylene chloride. The methylene chloride layer is washed with water and dried over sodium sulfate, followed by evaporation of the solvent. The residue is recrystallized from a mixture of acetone and n-hexane to give 8-chloro-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine as colorless flakes. Melting point; 226° C to 227° C.

reactant | 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C15H12ClN3
reactant | 2-methylimidazole hydrochloride | Cl.CC=1NC=CN1
reactant | hydrazine hydrate | O.NN
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 8-chloro-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=CC=CC=C3)C1 | C16H11ClN4
